2177-09-20 07:48:00 Physician Resident Progress Note
Chief Complaint: Anastomosis abscess
   24 Hour Events:
   [**9-19**]
   - pt given 1U pRBC overnight and bolus of 500cc NS overnight
 ARTERIAL LINE - START [**2177-9-19**] 09:58 PM
 PICC LINE - START [**2177-9-19**] 10:37 PM
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2177-9-20**] 04:00 AM
   Infusions:
   Propofol - 49.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-9-20**] 12:00 AM
   Pantoprazole (Protonix) - [**2177-9-20**] 02:00 AM
   Hydromorphone (Dilaudid) - [**2177-9-20**] 03:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-20**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 97 (75 - 97) bpm
   BP: 122/58(76) {104/49(65) - 127/59(80)} mmHg
   RR: 19 (12 - 19) insp/min
   Heart rhythm: SR (Sinus Rhythm)
          Total In:
                                                                  4,482 mL
                                                                  2,494 mL
   PO:
          TF:
   IVF:
                                                                    259 mL
                                                                  1,701 mL
   Blood products:
   338 mL
   Total out:
                                                                    342 mL
                                                                    380 mL
   Urine:
                                                                    240 mL
                                                                    260 mL
   NG:
                                                                     50 mL
                                                                     75 mL
   Stool:
   Drains:
                                                                     52 mL
                                                                     45 mL
   Balance:
                                                                  4,140 mL
                                                                  2,114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (322 - 430) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   ABG: 7.40/39/95.[**Numeric Identifier 253**]/23/0
   Ve: 7.4 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: R base, Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, colostomy and drain
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   97 K/uL
   9.5 g/dL
   189 mg/dL
   2.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   32 mg/dL
   111 mEq/L
   142 mEq/L
   27.0 %
   44.6 K/uL
        [image002.jpg]
                            [**2177-9-19**]  10:53 PM
                            [**2177-9-20**]  01:04 AM
                            [**2177-9-20**]  04:22 AM
                            [**2177-9-20**]  04:56 AM
   WBC
   42.2
   44.6
   Hct
   26.0
   27.0
   Plt
   99
   97
   Cr
   2.3
   2.4
   TCO2
   25
   25
   Glucose
   151
   189
   Other labs: PT / PTT / INR:16.5/59.8/1.5, ALT / AST:16/23, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:104/45, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   A/P: 75Fw/ hx AML and R cecal mass s/p R colectomy [**9-5**] presenting
   post-op with fever/leukocytosis/SOB found to have an abscess at the
   anastamosis site and R pleural effusion, underwent thoracentesis and IR
   guided placement of 2 posterior drains with persistent leukocytosis,
   now post-op diverting loop ostomy and surgical drain placement.
   .
   # Abdominal abscess/post-op: As above. Pt on mechanical ventilation. BP
   is stable without the need for pressors. Pt remains sedated with
   propofol.  Pt with cont leukocytosis likely [**1-4**] intra-abdominal
   abscess.  Pt on broad spectrum abx
   - cont. to bolus prn low uop (UOP >30cc/hr) or hypotension (MAP >65)
   - pain control with IV Dilaudid
   - cont. broad spectrum abx - Vanc/Pip-tazo (holding Vanco due to
   suprotherapeutic trough - repeat level in am)
   - Monitor drain outpt
   - Follow-up blood and fluid cultures
   - Trend Hct and transfuse <25
   - Cont. TPN
   .
   # Respiratory: Pt intubated on transfer. Pt is on PS 5/0 this AM.  CXR
   appears pt with cont R pleural effusion and pulmonary edema.  Pt fluid
   overload.  Pt diuresis is limited by her hypotension.
   - Monitor O/N, attempt to wean if possible, but could be limited by
   effusion
   - t/c thorocentesis in the future if unable to wean off vent
   - t/c ECHO to assess EF and cardiac function.
   .
   # R pleural effusion: Thoracentesis shortly after admission. Exudative.
   No evidence of infection or malignant cells, however appears to have
   reaccumulated. [**Month (only) 8**] require repeat thoracentesis if respiratory sx after
   extubation.
   .
   # Acute renal failure: Likely contrast nephropathy/ATN as creatinine
   bump [**9-18**] after IR placement of percutaneous drains. Baseline creat
   0.9, stabilized at 2.4, lytes has been wnl. Intraop w/ poor uop, now
   with approx 30cc/hr after small bolus which may indicate recovering
   renal fxn
   - cont. to monitor uop, bolus for low uop
   - follow lytes
   - renally dose meds (holding Vanco as above)
   .
   # Cecal mass: Pathology still pending
   .
   # AML: Treated [**2171**], followed by Heme/Onc this admission. Initial
   concern for recurrence given leukocytosis - peripheral smear showed NO
   blast, c/w her known dx of MDS. Felt that her elevated WBC count was
   more likely due to known infection.
   - Recommend transfuse HCT <25
   - appreciate Heme/Onc recs
   .
   # Type II diabetes: Uncomplicated. Insulin sliding scale - convert to
   insulin in TPN.
   .
   # FEN: NPO, TPN. Monitor and replete lytes prn. NG tube to intermittent
   suction
   .
   # Access: PICC R radial, PIV L antecub
   .
   # PPx: PPI, pneumoboots, heparin sc
   .
   # Code: Full, confirmed with husband [**Name (NI) **] [**Name (NI) 1904**] ([**Telephone/Fax (1) 1907**], ICU
   .
   # Comm: as above
   .
   # Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-9-20**] 12:15 AM 62 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-9-19**] 09:58 PM
   PICC Line - [**2177-9-19**] 10:37 PM
   18 Gauge - [**2177-9-19**] 10:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2177-09-21 09:50:00 Physician Resident Progress Note
Chief Complaint: Denies pain.
   24 Hour Events:
   - Prelim path report communicated to [**Doctor Last Name 1931**] is that cecal mass was
   lymphoid. Per Onc, will consult ID in AM.
   - Renally dose all meds.
   - TTE not done.
   - Renal: Likely ATN.
   - Fluconazole started for yeast in urine culture with corresponding
   urinalysis without signs of pyuria. Fluconazole stopped.
   - PM hct 23, transfused 1u PRBC.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsLisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Fluconazole - [**2177-9-20**] 08:30 AM
   Vancomycin - [**2177-9-20**] 02:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-9-21**] 12:44 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2177-9-20**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-9-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2177-9-21**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 93 (86 - 103) bpm
   BP: 116/46(68) {78/40(63) - 143/120(124)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,173 mL
                                                                    226 mL
   PO:
             TF:
   IVF:
                                                                  2,619 mL
                                                                    226 mL
   Blood products:
                                                                  1,154 mL
   Total out:
                                                                  1,070 mL
                                                                    390 mL
   Urine:
                                                                    905 mL
                                                                    390 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                     70 mL
   Balance:
   LOS Balance:
                                                                  4,103 mL
                                                                   7179 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (216 - 419) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/45/106/23/-1
   Ve: 8.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Diminished: Bilateral Bases)
   Abdominal: No(t) Bowel sounds present, Bilateral suprapubic drains.
   Extremities: Right: 1+, Left: 1+, upper extremity edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   110 K/uL
   10.1 g/dL
   152 mg/dL
   2.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   38 mg/dL
   112 mEq/L
   143 mEq/L
   27.7 %
   41.7 K/uL
        [image002.jpg]
   ABG (830AM): 7.37/43/111; FiO2=40%
                            [**2177-9-19**]  10:53 PM
                            [**2177-9-20**]  01:04 AM
                            [**2177-9-20**]  04:22 AM
                            [**2177-9-20**]  04:56 AM
                            [**2177-9-20**]  08:45 AM
                            [**2177-9-20**]  04:50 PM
                            [**2177-9-20**]  05:53 PM
                            [**2177-9-21**]  04:50 AM
   WBC
   42.2
   44.6
   40.7
   41.7
   Hct
   26.0
   27.0
   24.4
   23.0
   27.7
   Plt
   99
   97
   93
   110
   Cr
   2.3
   2.4
   2.5
   2.7
   TCO2
   25
   25
   25
   Glucose
   151
   189
   159
   152
   Other labs: PT / PTT / INR:15.7/59.8/1.4, ALT / AST:16/23, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:104/45, Albumin:2.2 g/dL, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Vancomycin Trough ([**2177-9-21**]) = 29.4
   Assessment and Plan
   75 year old female with history of AML with right cecal mass s/p R
   colectomy [**9-5**] presenting post-op with fever, leukocytosis, and SOB
   found to have an abscess at the anastamosis site as well as a right
   pleural effusion, who underwent thoracentesis and IR guided placement
   of 2 posterior drains with persistent leukocytosis, now post-op
   diverting loop ostomy and surgical drain placement.
   .
   # Abdominal abscess/post-op: Patient on mechanical ventilation post op
   with stable BP without the need for pressors. Pt remains sedated with
   propofol.  Pt with cont leukocytosis likely [**1-4**] intra-abdominal
   abscess, on broad spectrum abx. Initial path report shows lymphoid
   tissue, not malignant tissue. Further stains pending.
   - Continue to bolus prn low uop (UOP >30cc/hr) or hypotension (MAP >65)
   - Pain control with IV Dilaudid
   - Continue broad spectrum abx - Vanc/Pip-tazo.
     - Hold vancomycin due to elevated trough. Will redose according to
   worsening renal function
   - Monitor drain output
   - Follow-up blood and fluid cultures
 currently no growth to date
   - Consult ID regarding possible infectious etiology for cecal mass
   .
   # Respiratory: Patient intubated on transfer. Patient is comfortable on
   PS 10/5 this AM.  CXR show unchanged to slightly improved right pleural
   effusion and pulmonary edema.  Pt fluid overloaded.
   - SBT this morning, followed by possible thoracentesis.
   - Attempt to wean if possible, but could be limited by effusion
   - Gentle diuresis of 0.5-1 Liter. Check daily weights.
   .
   # R pleural effusion: Thoracentesis shortly after admission. Exudative.
   No evidence of infection or malignant cells, however appears to have
   reaccumulated. [**Month (only) 8**] require repeat thoracentesis if respiratory symptoms
   after extubation or if unable to wean off the vent.
   - Likely thoracentesis today in PM.
   .
   # Acute renal failure: Likely contrast nephropathy/ATN as creatinine
   bump [**9-18**] after IR placement of percutaneous drains. Baseline creat
   0.9, continuing to trend up with Cr=2.7, BUN=38 today. Intraop w/ poor
   uop, with minimally improved foley output
   - Continue to monitor uop, bolus for low uop
   - Follow lytes. Get urine lytes.
   - Renally dose meds (holding Vanco as above)
   .
   # Cecal mass: Pathology still pending
   .
   # AML: Treated [**2171**], followed by Heme/Onc this admission. Initial
   concern for recurrence given leukocytosis - peripheral smear showed NO
   blast, consistent with her known diagnosis of MDS. Felt that her
   elevated WBC count was more likely due to known infection.
   - Recommend transfuse HCT <25
   - Appreciate Heme/Onc recs
   .
   # Type II Diabetes: Uncomplicated. Insulin sliding scale - convert to
   insulin in TPN.
   .
   # FEN: NPO, TPN. Monitor and replete lytes prn. NG tube to intermittent
   suction
   .
   # Access: PICC R radial, PIV L antecub, R radial Arterial Line
   .
   # PPx: PPI, pneumoboots, heparin sc
   .
   # Code: Full, confirmed with husband [**Name (NI) **] [**Name (NI) 1904**] ([**Telephone/Fax (1) 1907**], ICU
   .
   # Comm: as above
   .
   # Dispo: ICU level of care
   ICU Care
   Nutrition: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2177-9-19**] 09:58 PM
   PICC Line - [**2177-9-19**] 10:37 PM
   18 Gauge - [**2177-9-19**] 10:39 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: [**First Name8 (NamePattern2) **] [**Known lastname 1904**] ([**Telephone/Fax (1) 1907**]
   Code status: Full code
   Disposition: ICU
   09:53

2177-09-22 07:14:00 Physician Resident Progress Note
Chief Complaint: Cecal mass s/p hemicolectomy.
   24 Hour Events:
   - Extubated
   - ID recs - Stool O+P, Entamoeba histolytica Antibody, Stool culture -
   Yersinia, Clostridium difficile toxin; continue vanc and Zosyn
   - Vanc stopped for trough 29.4; will need to restart pending level on
   morning of [**9-22**] (dose if vanc<15)
   - No new culture data
   - Heme/onc recs - No new recs
   - Renal recs - Feel that ARF is more likely ATN from intraoperative
   fluid shifts than contrast-induced nephropathy; avoid Lasix
   - Excellent diuresis; at 2300, UOP>3L with fluid balance -1.5L,
   received 500cc IVF
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Fluconazole - [**2177-9-20**] 08:30 AM
   Vancomycin - [**2177-9-20**] 02:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-9-22**] 12:13 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-9-21**] 11:16 AM
   Heparin Sodium (Prophylaxis) - [**2177-9-22**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2177-9-22**] 01:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-22**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 101 (89 - 109) bpm
   BP: 160/64(88) {153/64(88) - 160/66(89)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.3 kg (admission): 81.3 kg
             Total In:
                                                                  2,005 mL
                                                                  1,218 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                    798 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    840 mL
   Urine:
                                                                  3,260 mL
                                                                    780 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                     60 mL
                                                                     60 mL
   Balance:
                                                                 -1,545 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 459 (433 - 459) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.33/50/106/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Diminished: Bilateral Bases)
   Abdominal: No(t) Bowel sounds present, Bilateral suprapubic drains.
   Extremities: Right: 1+, Left: 1+, upper extremity edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   146 K/uL
   10.2 g/dL
   134 mg/dL
   2.9 mg/dL
   23 mEq/L
   3.5 mEq/L
   39 mg/dL
   110 mEq/L
   145 mEq/L
   29.9 %
   36.0 K/uL
        [image002.jpg]
                            [**2177-9-20**]  04:22 AM
                            [**2177-9-20**]  04:56 AM
                            [**2177-9-20**]  08:45 AM
                            [**2177-9-20**]  04:50 PM
                            [**2177-9-20**]  05:53 PM
                            [**2177-9-21**]  04:50 AM
                            [**2177-9-21**]  08:29 AM
                            [**2177-9-21**]  10:37 AM
                            [**2177-9-21**]  05:15 PM
                            [**2177-9-22**]  04:08 AM
   WBC
   44.6
   40.7
   41.7
   36.0
   Hct
   27.0
   24.4
   23.0
   27.7
   29.2
   29.9
   Plt
   97
   93
   110
   146
   Cr
   2.4
   2.5
   2.7
   2.9
   2.9
   TCO2
   25
   25
   26
   28
   Glucose
   189
   159
   152
   142
   134
   Other labs: PT / PTT / INR:15.3/59.8/1.4, ALT / AST:16/23, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:104/45, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: Abscess - NGTD
   Urine ([**9-18**]) - Final no growth
   O+P - Final no growth x3
   Viral stool - Prelim negative
   C.diff - final negative x3
   Blood ([**9-9**], [**9-15**]) - Final no growth
   Assessment and Plan
   Mrs. [**Known lastname 1904**] is a 75 year old female with a PMH significant for AML with
   cecal mass s/p hemicolectomy complicated by anastamosis site leakage
   and abscess formation and right pleural effusion s/p thoracentesis and
   IR guided drain placement x2 admitted to [**Hospital Unit Name 4**] for post-op fever,
   leukocytosis, and SOB now post-op from diverting loop ostomy and
   surgical drain placement.
   .
   # Abdominal fluid collection s/p ex-lap: Patient afebrile over last 24
   hours with WBC trending down to 36. Patient is s/p IR guided drain
   placement x2 and surgical drain placement x1.
   - Monitor drain output
   - Continue broad antibiotic coverage with renally dosed pip/tazo
   - Vanco level today 24.5. Hold dose today, recheck tomorrow and dose
   when level <15.
   - Follow-up cultures
   - Monitor UOP, mentation, MAPs, CVP and bolus IVF as necessary
   .
   # Respiratory: Patient extubated succesfully yesterday. Now off
   supplemental oxygen. Continues to have large right-sided pleural
   effusion s/p thoracentesis consistent with exudative process with
   culture and cytology negative.
   - If resp status declines, consider repeat thoracentesis.
   .
   # Acute renal failure: Creatinine stable today at 2.9.  Evaluated by
   renal who feel that ARF likely due to intraoperative fluid shifts and
   ATN rather than CIN.
   - Monitor creatinine, electrolytes
   - Monitor UOP
   - Avoid diuresis
   - Renally dose meds, avoid nephrotoxins
   .
   # Cecal mass: Verbal report as lymphoid tissue with final report
   pending.  ID consult yesterday with differential including TB,
   actinomyces, E. histolytica, and Yersenia.  Patient has had negative
   stool O+P x3 and C.diff x3.
   - Stool yersenia
   - Serology for E. histolytica.
   - Discuss with pathology - add AFB, gram stain for actinomyces and
   Yersenia.
   - Follow-up final path report.
   .
   # AML/MDS: Treated [**2171**], followed by Heme/Onc this admission. Initial
   concern for recurrence given leukocytosis - peripheral smear did not
   demonstrate blasts and consistent with prior diagnosis of MDS.
   Leukocytosis also likely secondary to infection in post-operative
   setting.
   - Recommend transfuse HCT <25
   - Appreciate Heme/Onc recs
   .
   # Type II Diabetes:
   - ISS, insulin in TPN
   .
   # FEN: NPO, TPN. Replete as necessary. NGT to intermittent suction
   .
   # Access: PICC RAC, PIV LAC, R radial arterial line
   .
   # PPx: heparin SQ and PPI
   .
   # Code: Full, confirmed with husband [**Name (NI) **] [**Name (NI) 1904**] ([**Telephone/Fax (1) 1907**], ICU
   .
   # Dispo: Can likely call out this afternoon.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-9-21**] 09:36 PM 58.[**Telephone/Fax (5) 1156**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2177-9-19**] 09:58 PM
   PICC Line - [**2177-9-19**] 10:37 PM
   18 Gauge - [**2177-9-19**] 10:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: